US08729096B2
N-(4-Bromophenyl)-2-(4,4-dimethyl-2,5-dioxoimidazolidin-1-yl)propanamide
To a mixture of 2-(4,4-dimethyl-2,5-dioxoimidazolodin-1-yl)propanoic acid CAS#876709-28-3 (130 mg, 0.65 mmol), CH2Cl2 (3 mL), Et3N (645 mg, 6.5 mmol), 4-Bromoaniline (60 mg, 0.65 mmol) was added PPAA (50% solution in DMF, 0.6 mL, 1.09 mmol). The mixture was stirred for 18 h at RT. The reaction was diluted with EtOAc washed with aq. NaHCO3 (1N solution), dried with MgSO4 and solvent removed. The crude mixture was purified by silicagel chromatography. The title compound was isolated as a white solid.

reactant | 2-(4,4-dimethyl-2,5-dioxoimidazolodin-1-yl)propanoic acid | CC1(NC(N(C1=O)C(C(=O)O)C)=O)C | C8H12N2O4
reactant | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
reactant | Et3N | 6.5 mmol, 645 mg | CCN(CC)CC | C6H15N
reactant | 4-Bromoaniline | 0.65 mmol, 60 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(4-Bromophenyl)-2-(4,4-dimethyl-2,5-dioxoimidazolidin-1-yl)propanamide | BrC1=CC=C(C=C1)NC(C(C)N1C(NC(C1=O)(C)C)=O)=O | C14H16BrN3O3
